US06706709B2
A suspension of 5-chlorosulfonyl-2-oxindole (5.0 g), 4-fluorobenzylamine (3.0 mL) and pyridine (3.5 mL) in dichloromethane (30 mL) was stirred at room temperature for 4 hours. The precipitate was filtered, washed with dichloromethane and dried to give 5.8 g (84%) of 2-oxo-2,3-dihydro-1H-indole-5-sulfonic acid-4-fluoro-benzylamide.

reactant | 5-chlorosulfonyl-2-oxindole | 5.0 g | ClS(=O)(=O)C=1C=C2CC(NC2=CC1)=O | C8H6ClNO3S
reactant | 4-fluorobenzylamine | 3.0 mL | FC1=CC=C(CN)C=C1 | C7H8FN
reactant | pyridine | 3.5 mL | N1=CC=CC=C1 | C5H5N
solvent | dichloromethane | 30 mL | ClCCl | CH2Cl2
product | 2-oxo-2,3-dihydro-1H-indole-5-sulfonic acid-4-fluoro-benzylamide | 5.8 g, 84% | FC1=CC=C(CNS(=O)(=O)C=2C=C3CC(NC3=CC2)=O)C=C1 | C15H13FN2O3S
